US06613766B1
a) 6,7-Dihydro-pyrido[2,3-d]pyridazine-5,8-dione
Hydrazine hydrate (13.09 g, 0.261 mol) was added to a stirred solution of pyridine-2,3-dicarboxylic anhydride (30.0 g, 0.201 mol) and sodium acetate (21.45 g, 0.261 mol) in 40% acetic acid/water (400 ml). The reaction was heated at reflux for 3 days under nitrogen. The yellow precipitate was filtered off and washed successively with water (4×200 ml), hexane (3×150 ml) and diethyl ether (3×150 ml) to give the title-compound (25.0 g, 76%), 1H NMR (250 MHz, d6-DMSO) δ 7.90 (1H, q, J=4.5Hz, Ar—H), 8.51 (1H, d, J=4.5Hz, Ar—H), 9.13 (1H, d, J=4.6Hz, Ar—H), 11.65 (2H, br s, 2 of NH); MS (ES+) m/e 164 [MH]+.

reactant | Hydrazine hydrate | 0.261 mol, 13.09 g | O.NN
reactant | pyridine-2,3-dicarboxylic anhydride | 0.201 mol, 30.0 g | N1=C2C(=CC=C1)C(=O)OC2=O | C7H3NO3
reactant | sodium acetate | 0.261 mol, 21.45 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid water | 400 ml | C(C)(=O)O.O
product | 6,7-Dihydro-pyrido[2,3-d]pyridazine-5,8-dione | 25.0 g, 76% | N1=CC=CC2=C1C(NNC2=O)=O | C7H5N3O2
